US04536499
A mixture of 5.1 g (0.0147 mole) of 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionic acid and 7.0 g (0.059 mole) of thionyl chloride in 200 ml tetrahydrofuran is stirred for 18 hours at room temperature. The solvent is then removed in vacuo to give 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionyl chloride.

reactant | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionic acid | 0.0147 mole, 5.1 g | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC(=O)O | C21H18N2O3
reactant | thionyl chloride | 0.059 mole, 7.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionyl chloride | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC(=O)Cl | C21H17ClN2O2
